* File: /home/VLSI_1131/tsx1136010/hw02/spice/post_sim/hw2/XOR3_pex/XOR3_pex.cir.pex
* Created: Sat Nov 16 21:15:46 2024
* Program "Calibre xRC"
* Version "v2020.2_14.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR3%A 5 9 15 19 32
c0 32 0 0.00300222f
c1 27 0 0.0149203f
c2 23 0 0.0404891f
c3 22 0 0.122764f
c4 19 0 0.360681f
c5 15 0 0.326176f
c6 11 0 0.24256f
c7 9 0 0.311386f
c8 5 0 0.285018f
r9 25 26 8.97804
r10 23 32 8
r11 22 25 0.0661765
r12 22 24 9.17657
r13 22 23 13.2552
r14 17 27 3.81101
r15 17 19 138.5
r16 13 27 3.81101
r17 13 15 123.25
r18 12 25 6.46036
r19 11 27 0.990414
r20 11 12 102.5
r21 9 26 130.5
r22 5 24 114.25
.ends

.subckt PM_XOR3%2 4 9 16 20
c0 33 0 0.231248f
c1 24 0 0.0151498f
c2 23 0 0.108915f
c3 20 0 0.453886f
c4 16 0 0.236847f
c5 12 0 0.695314f
r6 29 33 0.401556
r7 28 29 8
r8 24 33 8
r9 23 26 8.67124
r10 23 25 8.84771
r11 23 24 13.2552
r12 20 26 166
r13 16 25 77.75
r14 12 28 0.286222
r15 11 12 16.3327
r16 9 11 5.02641
r17 7 28 0.507111
r18 6 7 8.16635
r19 4 6 2.22
.ends

.subckt PM_XOR3%3 4 9 10
c0 20 0 0.712185f
c1 13 0 0.0825552f
c2 7 0 0.0523227f
r3 16 20 0.850778
r4 13 20 8
r5 12 13 16.3327
r6 10 12 4.8566
r7 9 12 4.82264
r8 7 16 8
r9 6 7 16.3327
r10 4 6 4.99245
.ends

.subckt PM_XOR3%4 4 9 10
c0 20 0 0.556323f
c1 13 0 0.213418f
c2 7 0 0.135873f
r3 16 20 0.797604
r4 15 16 8
r5 13 20 8
r6 12 13 8.16635
r7 10 12 2.145
r8 9 12 2.13
r9 7 15 0.102667
r10 6 7 8.16635
r11 4 6 2.205
.ends

.subckt PM_XOR3%5 4 9 10
c0 20 0 1.12429f
c1 19 0 0.37914f
c2 15 0 0.262521f
c3 6 0 0.0239063f
r4 19 20 8
r5 16 20 0.974867
r6 15 16 8
r7 13 19 0.143111
r8 12 13 8.16635
r9 10 12 2.2125
r10 9 12 2.0625
r11 7 15 0.138444
r12 6 7 8.16635
r13 4 6 2.22
.ends

.subckt PM_XOR3%6 4 9 10
c0 20 0 1.29402f
c1 13 0 0.243069f
c2 7 0 0.173154f
c3 6 0 0.0213444f
r4 19 20 8
r5 16 20 1.06008
r6 15 16 8
r7 13 19 0.136889
r8 12 13 16.3327
r9 10 12 5.00943
r10 9 12 4.66981
r11 7 15 0.138444
r12 6 7 16.3327
r13 4 6 5.19623
.ends

.subckt PM_XOR3%B 11 14 20 22 28 30 38
c0 38 0 0.0874613f
c1 33 0 0.0116103f
c2 32 0 0.0413742f
c3 28 0 0.805214f
c4 24 0 0.264729f
c5 20 0 0.752737f
c6 17 0 0.021945f
c7 16 0 0.315351f
c8 14 0 0.350736f
c9 11 0 0.366819f
c10 6 0 0.0345881f
c11 3 0 0.113137f
r12 28 30 269.75
r13 26 28 49.25
r14 25 33 3.81101
r15 24 26 5.02856
r16 24 25 102
r17 20 22 269.75
r18 18 33 0.990414
r19 18 20 49.25
r20 16 33 3.81101
r21 16 17 138
r22 12 32 8.43011
r23 12 14 130
r24 9 32 8.43011
r25 9 11 114.25
r26 8 17 5.02856
r27 8 11 48.25
r28 6 38 8
r29 5 6 13.2552
r30 3 32 1.56772
r31 3 5 5.23333
.ends

.subckt PM_XOR3%GND 3 44 49 50 54 59 65
c0 89 0 0.0958797f
c1 86 0 0.0091989f
c2 82 0 0.0183065f
c3 79 0 2.98228e-20
c4 65 0 0.0206968f
c5 62 0 0.229828f
c6 57 0 0.191285f
c7 54 0 0.00979578f
c8 53 0 0.20013f
c9 49 0 0.0133571f
c10 47 0 0.156007f
r11 65 67 8
r12 62 79 0.269889
r13 61 62 16.3327
r14 59 61 5.00943
r15 57 76 0.268333
r16 56 57 16.3327
r17 54 56 5.16226
r18 53 73 0.269889
r19 52 53 16.3327
r20 50 52 5.02641
r21 49 52 4.65283
r22 47 70 0.268333
r23 46 47 16.3327
r24 44 46 4.99245
r25 42 79 0.0195555
r26 42 89 0.0195555
r27 41 42 16.3327
r28 39 89 0.128333
r29 38 41 18.1698
r30 38 39 5.44423
r31 36 39 0.239556
r32 35 38 26.1509
r33 35 36 5.44423
r34 33 36 0.245778
r35 32 35 26.8302
r36 32 33 5.44423
r37 30 33 0.230067
r38 30 67 0.189778
r39 29 32 25.1151
r40 29 30 5.44423
r41 25 67 0.0435556
r42 25 90 0.119156
r43 24 25 5.44423
r44 22 76 0.00770322
r45 22 86 0.0296412
r46 22 90 0.0296412
r47 21 24 16.8113
r48 21 22 16.3327
r49 19 86 0.143733
r50 19 87 0.122267
r51 18 21 19.5283
r52 18 19 5.44423
r53 16 73 0.00770322
r54 16 82 0.0296412
r55 16 87 0.0296412
r56 15 18 17.1509
r57 15 16 16.3327
r58 13 82 0.1204
r59 12 15 16.9811
r60 12 13 8.16635
r61 10 13 0.154
r62 10 83 0.120711
r63 9 12 16.8113
r64 9 10 5.44423
r65 6 70 0.0195555
r66 6 83 0.0195555
r67 5 9 16.9811
r68 5 6 16.3327
r69 3 29 16.3868
r70 3 24 9.08491
.ends

.subckt PM_XOR3%VDD 3 4 9 10 14 19 68
c0 91 0 1.85493e-19
c1 77 0 0.136235f
c2 74 0 0.0111857f
c3 70 0 0.0218803f
c4 68 0 0.0207081f
c5 22 0 0.292984f
c6 17 0 0.266074f
c7 14 0 0.00585984f
c8 13 0 0.309078f
c9 9 0 0.00867393f
c10 7 0 0.201633f
r11 65 68 8
r12 62 91 0.0195555
r13 62 77 0.0195555
r14 61 62 16.3327
r15 59 77 0.129889
r16 58 61 17.8302
r17 58 59 5.44423
r18 56 59 0.244222
r19 55 58 26.6604
r20 55 56 5.44423
r21 53 56 0.236444
r22 52 55 25.8113
r23 52 53 5.44423
r24 50 53 0.233178
r25 50 65 0.192889
r26 49 52 25.4547
r27 49 50 5.44423
r28 45 65 0.0404444
r29 45 78 0.119156
r30 44 45 5.44423
r31 42 89 0.00770322
r32 42 74 0.0296412
r33 42 78 0.0296412
r34 41 44 16.8113
r35 41 42 16.3327
r36 39 74 0.146844
r37 39 75 0.122267
r38 38 41 19.8679
r39 38 39 5.44423
r40 36 87 0.00770322
r41 36 70 0.0296412
r42 36 75 0.0296412
r43 35 38 17.1509
r44 35 36 16.3327
r45 33 70 0.1204
r46 32 35 16.9811
r47 32 33 8.16635
r48 30 33 0.154
r49 30 71 0.120711
r50 29 32 16.8113
r51 29 30 5.44423
r52 26 85 0.0195555
r53 26 71 0.0195555
r54 25 29 16.9811
r55 25 26 16.3327
r56 22 91 0.339889
r57 21 22 8.16635
r58 19 21 2.2125
r59 17 89 0.338333
r60 16 17 8.16635
r61 14 16 2.205
r62 13 87 0.338333
r63 12 13 8.16635
r64 10 12 2.22
r65 9 12 2.055
r66 7 85 0.336778
r67 6 7 8.16635
r68 4 6 2.205
r69 3 49 16.6415
r70 3 44 8.83019
.ends

.subckt PM_XOR3%10 5 10 15
c0 29 0 1.53326f
c1 18 0 0.294177f
c2 13 0 0.29016f
c3 8 0 0.279612f
c4 5 0 0.00674957f
r5 28 29 8
r6 26 29 0.962
r7 25 26 8
r8 22 26 0.428856
r9 21 22 8
r10 18 28 0.253556
r11 17 18 16.3327
r12 15 17 5.17925
r13 13 25 0.253556
r14 12 13 16.3327
r15 10 12 5.00943
r16 8 21 0.253556
r17 7 8 16.3327
r18 5 7 4.99245
.ends

.subckt PM_XOR3%11 5 10 15
c0 29 0 1.56989f
c1 28 0 0.365907f
c2 25 0 0.384624f
c3 21 0 0.376489f
c4 5 0 0.0216326f
r5 28 29 8
r6 26 29 0.962
r7 25 26 8
r8 22 26 0.428856
r9 21 22 8
r10 18 28 0.258222
r11 17 18 8.16635
r12 15 17 2.2125
r13 13 25 0.259778
r14 12 13 8.16635
r15 10 12 2.2125
r16 8 21 0.259778
r17 7 8 8.16635
r18 5 7 2.205
.ends

.subckt PM_XOR3%12 5 10 15
c0 29 0 0.562462f
c1 18 0 0.21689f
c2 13 0 0.247606f
c3 8 0 0.235026f
r4 28 29 8
r5 26 29 0.4732
r6 25 26 8
r7 22 26 0.38597
r8 21 22 8
r9 18 28 0.242667
r10 17 18 8.16635
r11 15 17 2.2125
r12 13 25 0.247333
r13 12 13 8.16635
r14 10 12 2.2125
r15 8 21 0.247333
r16 7 8 8.16635
r17 5 7 2.22
.ends

.subckt PM_XOR3%13 5 10 15
c0 29 0 0.6153f
c1 28 0 0.116048f
c2 25 0 0.128201f
c3 21 0 0.12996f
r4 28 29 8
r5 26 29 0.517111
r6 25 26 8
r7 22 26 0.427411
r8 21 22 8
r9 18 28 0.108889
r10 17 18 16.3327
r11 15 17 5.00943
r12 13 25 0.108889
r13 12 13 16.3327
r14 10 12 5.17925
r15 8 21 0.108889
r16 7 8 16.3327
r17 5 7 5.70566
.ends

.subckt PM_XOR3%14 7 12 19 23 27 31
c0 56 0 0.582449f
c1 55 0 0.104116f
c2 52 0 0.0843322f
c3 51 0 0.248685f
c4 40 0 0.0102918f
c5 39 0 0.13219f
c6 35 0 0.0113992f
c7 34 0 0.125706f
c8 31 0 0.363357f
c9 27 0 0.31442f
c10 23 0 0.37565f
c11 19 0 0.33005f
c12 15 0 0.830412f
c13 14 0 0.00398243f
c14 9 0 0.0195446f
r15 55 56 0.0339417
r16 52 56 0.466556
r17 50 52 0.0325117
r18 50 51 0.0340717
r19 46 51 0.227356
r20 45 46 8
r21 40 55 8
r22 39 42 8.81049
r23 39 41 8.96303
r24 39 40 13.2552
r25 35 50 8
r26 34 37 8.81049
r27 34 36 8.96303
r28 34 35 13.2552
r29 31 42 129.5
r30 27 41 113.25
r31 23 37 129.5
r32 19 36 113.25
r33 15 45 0.399778
r34 14 15 16.3327
r35 12 14 5.02641
r36 10 45 0.392
r37 9 10 8.16635
r38 7 9 2.22
.ends

.subckt PM_XOR3%C 11 14 20 22 29
c0 29 0 0.149833f
c1 24 0 0.044493f
c2 20 0 0.844418f
c3 17 0 0.021803f
c4 16 0 0.33671f
c5 14 0 0.339377f
c6 11 0 0.361699f
c7 6 0 0.0412871f
c8 3 0 0.114711f
r9 20 22 269.25
r10 18 20 49.25
r11 16 18 5.02856
r12 16 17 137.5
r13 12 24 8.43011
r14 12 14 129.5
r15 9 24 8.43011
r16 9 11 113.75
r17 8 17 5.02856
r18 8 11 48.75
r19 6 29 8
r20 5 6 13.2552
r21 3 24 1.56772
r22 3 5 5.08333
.ends

.subckt PM_XOR3%16 9 14 23 27
c0 34 0 0.0163023f
c1 33 0 0.109078f
c2 31 0 0.025695f
c3 27 0 0.395696f
c4 23 0 0.35198f
c5 19 0 0.0869475f
c6 17 0 0.300334f
c7 12 0 0.390849f
c8 7 0 0.281398f
r9 30 33 8.37926
r10 30 31 13.2552
r11 25 34 3.81101
r12 25 27 138
r13 21 34 3.81101
r14 21 23 122.25
r15 19 34 0.990414
r16 19 33 37
r17 16 17 16.3327
r18 14 16 5.00943
r19 11 12 8.16635
r20 9 11 2.2125
r21 5 31 0.0785556
r22 5 7 0.00770322
r23 4 12 0.360111
r24 4 7 0.0296412
r25 3 17 0.358556
r26 3 7 0.0296412
.ends

.subckt PM_XOR3%S 3 4 8 9 17
c0 17 0 0.137307f
c1 12 0 1.04423f
r2 14 17 8
r3 12 14 0.393556
r4 11 12 16.3327
r5 9 11 5.00943
r6 8 11 4.66981
r7 7 14 0.392
r8 6 7 8.16635
r9 4 6 2.2125
r10 3 6 2.0625
.ends

